US05294713
N-(N-Benzyloxycarbonyl-L-phenylalanyl)-N-(2,2-diethoxy ethyl)glycine t-butyl ester
A mixture of 11.0 g of N-(2,2-diethoxyethyl)glycine t-butyl ester, 13.3 g of N-benzyloxycarbonyl-L-phenylalanine and 50 ml of dimethylformamide was cooled to 0° C., and there were added dropwise 9.4 g of diethyl cyanophosphonate, then 5.9 g of triethylamine. The mixture was stirred for one hour at the same temperature, then for 5 hours at room temperature. The reaction mixture was diluted with ethyl acetate, which was poured into ice-water. The ethyl acetate layer was dried over anhydrous magnesium sulfate, then concentrated under reduced pressure to give a crude product. The crude product was purified by means of chromatography on silica gel using an eluent (n-hexane:ethyl acetate=9:1) to afford 20.0 g of the title compound as a colorless oily product.

reactant | N-(2,2-diethoxyethyl)glycine t-butyl ester | 11.0 g | C(C)(C)(C)OC(CNCC(OCC)OCC)=O | C12H25NO4
reactant | N-benzyloxycarbonyl-L-phenylalanine | 13.3 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | diethyl cyanophosphonate | 9.4 g | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 5.9 g | C(C)N(CC)CC | C6H15N
product | N-(N-Benzyloxycarbonyl-L-phenylalanyl)-N-(2,2-diethoxy ethyl)glycine t-butyl ester | 20.0 g | C(C)(C)(C)OC(CN(CC(OCC)OCC)C([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)=O | C29H40N2O7
